US04918094
4-[1-(2-Carbamoylethyl)-5-(N-cyclopentylmethylcarbamoyl)indol-3-ylmethyl]-3-methoxybenzoic acid
A solution of methyl 4-[1-(2-carbamoylethyl)-5-(N-cyclopentylmethylcarbamoyl)indol-3-ylmethyl]-3-methoxybenzoate (0.13 g) in a combination of methanol (2 ml), tetrahydrofuran (2 ml), and water (1 ml) was treated with lithium hydroxide monohydrate (0.07 g). The mixture was stirred for 12 hours and then concentrated to remove the organic solvents. The resultant aqueous solution was acidified with 10% (v/v) hydrochloric acid. The white precipitate which formed was collected by filtration, washed with water, and dried under vacuum to give the title compound (0.10 g, 79%) as a white powder; mp 129°-131° C.

reactant | methyl 4-[1-(2-carbamoylethyl)-5-(N-cyclopentylmethylcarbamoyl)indol-3-ylmethyl]-3-methoxybenzoate | 0.13 g | C(N)(=O)CCN1C=C(C2=CC(=CC=C12)C(NCC1CCCC1)=O)CC1=C(C=C(C(=O)OC)C=C1)OC | C28H33N3O5
reactant | methanol | 2 ml | CO | CH4O
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 0.07 g | O.[OH-].[Li+]
solvent | water | 1 ml | O | H2O
product | 4-[1-(2-Carbamoylethyl)-5-(N-cyclopentylmethylcarbamoyl)indol-3-ylmethyl]-3-methoxybenzoic acid | 0.10 g, 79% | C(N)(=O)CCN1C=C(C2=CC(=CC=C12)C(NCC1CCCC1)=O)CC1=C(C=C(C(=O)O)C=C1)OC | C27H31N3O5
